US09023883B2
To a solution of 3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde (1 g, 0.00326 mol) in 1,4-dioxane (30 ml) were added 4-nitrophenylboronic acid (0.654 g, 0.00392 mol) and sat. NaHCO3 solution (8 ml). The reaction mixture was degassed using argon for 0.5 h. Tetrakis(triphenylphosphine) palladium (0.188 g, 0.000163 mol) was added under an argon atm. and the resultant suspension was heated for 8 h at 90° C. The reaction was cooled to room temperature, poured into water (100 mL) and extracted with EtOAc (100 mL×3). The combined extracts was washed with brine (100 mL), dried over sodium sulphate and evaporated under reduced pressure. The residue was purified by SGC using hexane:EtOAc (0%-40%) as eluent to obtain 3-(4-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde (550 mg, Yield 56%). LCMS (ESI): RT=2.32 min, m/z=302.2 [M+H]+.

reactant | 3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde | 0.00326 mol, 1 g | IC1=NN(C=C1C=O)C1OCCCC1 | C9H11IN2O2
reactant | 4-nitrophenylboronic acid | 0.00392 mol, 0.654 g | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | NaHCO3 | 8 ml | C(=O)(O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Tetrakis(triphenylphosphine) palladium | 0.000163 mol, 0.188 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(4-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde | 550 mg, Yield 56% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C=C1C=O)C1OCCCC1 | C15H15N3O4
